US07893056B2
Tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (6.22 g, 12.54 mmol) was dissolved in THF (15 mL). To this solution was added triethylamine (2.1 mL, 15.0667 mmol), followed by commercially available (2-furanylmethyl)methylamine (1.394 g, 12.32 mmol) which was dissolved in THF (3 mL). The reaction was left to stir overnight. Then the reaction mixture was diluted with water, and the aqueous layer was extracted with ethyl acetate. The organics were dried (Na2SO4) and concentrated to produce tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(2-furanylmethyl)(methyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate as a beige solid (7.1439 g). LCMS: (M+H)+=572.3.

reactant | Tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 12.54 mmol, 6.22 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
reactant | triethylamine | 15.0667 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
reactant | (2-furanylmethyl)methylamine | 12.32 mmol, 1.394 g | O1C(=CC=C1)CNC | C6H9NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(2-furanylmethyl)(methyl)amino]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 7.1439 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)N(C)CC=1OC=CC1)Cl)C(=O)OC(C)(C)C | C25H35ClFN5O7
